US07396844B1
Synthesis of t-butyl [(1R)-2-(3-cyanophenoxy)-1-(4-iodobenzyl)ethyl]carbamate
724 mg (6.08 mmol) of 3-cyanophenol and 1.12 g (8.1 mmol) of potassium carbonate were added to 1.6 g (0.60 mmol) of t-butyl [(1R)-2-chloro-1-(4-iodobenzyl)ethyl]carbamate and 25 ml of dimethylformamide, and they were stirred at 70° C. for 55 hours. The reaction liquid was diluted with water. After extraction with ethyl acetate, the organic layer was successively washed with water and saturated aqueous NaCl solution. The solvent was evaporated, and the residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | 3-cyanophenol | 6.08 mmol, 724 mg | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | potassium carbonate | 8.1 mmol, 1.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl [(1R)-2-chloro-1-(4-iodobenzyl)ethyl]carbamate | 0.60 mmol, 1.6 g | ClC[C@@H](CC1=CC=C(C=C1)I)NC(OC(C)(C)C)=O | C14H19ClINO2
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | t-butyl [(1R)-2-(3-cyanophenoxy)-1-(4-iodobenzyl)ethyl]carbamate | C(#N)C=1C=C(OC[C@@H](CC2=CC=C(C=C2)I)NC(OC(C)(C)C)=O)C=CC1 | C21H23IN2O3
